US08003785B2
A mixture of 0.05 g (0.15 mmole) of 2-chloro-9-cyclopentyl-7,7-difluoro-5-propyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one (VII-144), 0.05 g (0.17 mmole) of 4-amino-N-(1-methyl-piperidin-4-yl)-benzamide, 0.04 g (0.22 mmole) of p-toluenesulfonic acid monohydrate and 4.0 mL of 2-propanol was heated at 160 degrees for 2 hours in a microwave reactor. The cooled mixture was concentrated under reduced pressure. The residue was diluted with dichloromethane and washed twice with saturated aqueous sodium bicarbonate solution. The aqueous phases were extracted with dichloromethane, and the combined organic layers washed with brine, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by silica gel chromatography eluting with methanol-dichloromethane (gradient, 0:100-25:75), to give 0.051 g of 4-(9-cyclopentyl-7,7-difluoro-6-oxo-5-propyl-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-N-(1-methyl-piperidin-4-yl)-benzamide (I-147).

reactant | 2-chloro-9-cyclopentyl-7,7-difluoro-5-propyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one | 0.15 mmole, 0.05 g | ClC=1N=CC2=C(N(CC(C(N2CCC)=O)(F)F)C2CCCC2)N1 | C15H19ClF2N4O
reactant | 4-amino-N-(1-methyl-piperidin-4-yl)-benzamide | 0.17 mmole, 0.05 g | NC1=CC=C(C(=O)NC2CCN(CC2)C)C=C1 | C13H19N3O
reactant | p-toluenesulfonic acid monohydrate | 0.22 mmole, 0.04 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | 2-propanol | 4.0 mL | CC(C)O | C3H8O
product | 4-(9-cyclopentyl-7,7-difluoro-6-oxo-5-propyl-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-N-(1-methyl-piperidin-4-yl)-benzamide | 0.051 g | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)CCC)C=NC(=N2)NC2=CC=C(C(=O)NC1CCN(CC1)C)C=C2 | C28H37F2N7O2
